US09353108B2
C) Ethyl 3-(benzyloxy)-4-cyclobutyl-5-ethoxybenzoate
A catalytic amount of iodine was added to a mixture of magnesium (10.8 g) and THF (180 mL), then a THF (90 mL) solution of cyclobutyl bromide (30 g) was slowly added thereto at room temperature, and the mixture was stirred at the same temperature as above for 2 hours. A THF (120 mL) solution of zinc bromide (50.0 g) was added to the reaction mixture at 0° C., and the mixture was stirred at the same temperature as above for 2 hours. The zinc reagent (140 mL) prepared above was added to a mixture of ethyl 3-(benzyloxy)-5-ethoxy-4-iodobenzoate (10 g), tris(dibenzylideneacetone)dipalladium(0) (0.644 g), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (0.482 g), and DMF (100 mL), and the resultant mixture was stirred at 100° C. for 16 hours in an argon atmosphere. The reaction mixture was allowed to cool to room temperature. Then, ethyl acetate was added thereto, and the mixture was filtered through celite. The filtrate was washed with water and saturated saline and dried over anhydrous sodium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (3.5 g).

reactant | iodine | II | I2
reactant | magnesium | 10.8 g | [Mg] | Mg
reactant | cyclobutyl bromide | 30 g | C1(CCC1)Br | C4H7Br
reactant | ethyl 3-(benzyloxy)-5-ethoxy-4-iodobenzoate | 10 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1I)OCC | C18H19IO4
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.482 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
catalyst | zinc bromide | 50.0 g | [Br-].[Zn+2].[Br-]
catalyst | zinc | 140 mL | [Zn] | Zn
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.644 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 180 mL | C1CCOC1 | C4H8O
product | Ethyl 3-(benzyloxy)-4-cyclobutyl-5-ethoxybenzoate | 3.5 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OCC)C=C(C1C1CCC1)OCC | C22H26O4
